US04182757
3.6 g of D-galactose, 3.5 g of neopentylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 5-(1). 5.0 g of 1-(2-chloroethyl)-3-neopentyl-3-D-galactopyranosylurea are thereby obtained as colorless caramel.

reactant | D-galactose | 3.6 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | neopentylamine | 3.5 g | C(C(C)(C)C)N | C5H13N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-neopentyl-3-D-galactopyranosylurea | 5.0 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CC(C)(C)C | C14H27ClN2O6
